US08562945B2
Piperidine (0.20 mL) was added to a solution of (S)-1-(9H-fluoren-9-yl)-14,14-dimethyl-3,12-dioxo-10-(thiazol-2-ylmethyl)-2,13-dioxa-4,10-diazapentadecane-5-carboxylic acid (72.5 mg, 0.125 mmol) in DMF (1.0 mL). The mixture was stirred at room temperature for 2 hrs. Solvent was evaporated under reduce pressure to afford a residue, which was purified by flash chromatography over silica gel to afford (S)-2-amino-6-((2-tert-butoxy-2-oxoethyl)(thiazol-2-ylmethyl)amino)hexanoic acid (25 mg, 35%). 1H NMR (400 MHz, CD3OD) 7.70 (d, J=3.6 Hz, 1H), 7.53 (d, J=3.2 Hz, 1H), 4.15 (s, 2H), 3.52 (dd, J=7.2, 5.2 Hz, 1H), 3.38 (s, 2H), 2.73 (t, J=7.2 Hz, 2H), 1.91-1.76 (m, 2H), 1.60-1.44 (m, 13H); MS (ESI), 358 (M+H)+.

reactant | Piperidine | 0.20 mL | N1CCCCC1 | C5H11N
reactant | (S)-1-(9H-fluoren-9-yl)-14,14-dimethyl-3,12-dioxo-10-(thiazol-2-ylmethyl)-2,13-dioxa-4,10-diazapentadecane-5-carboxylic acid | 0.125 mmol, 72.5 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CCCCN(CC(OC(C)(C)C)=O)CC=1SC=CN1)C(=O)O)=O | C31H37N3O6S
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (S)-2-amino-6-((2-tert-butoxy-2-oxoethyl)(thiazol-2-ylmethyl)amino)hexanoic acid | 25 mg, 35% | N[C@H](C(=O)O)CCCCN(CC=1SC=CN1)CC(=O)OC(C)(C)C | C16H27N3O4S
